US05643932
25 g of 3,4-dimethoxybenzonitrile and 23 g of thioacetamide were dissolved in 120 ml of 10% hydrochloric acid-DMF. The solution was heated at 90° C. for 3 hours. The solution was further heated at 130° C. for 5 hours to conduct a reaction. The solvent was removed by distillation. The residue was washed twice with 100 ml of diethyl ether. Similar washing was conducted with 100 ml of water. The resulting crystals were collected by filtration and dried. Recrystallization from methanol was conducted to obtain 18.7 g of 3,4-dimethoxythiobenzamide as light brown columnar crystals.

reactant | 3,4-dimethoxybenzonitrile | 25 g | COC=1C=C(C#N)C=CC1OC | C9H9NO2
reactant | thioacetamide | 23 g | C(C)(=S)N | C2H5NS
solvent | hydrochloric acid DMF | 120 ml | Cl.CN(C)C=O
product | 3,4-dimethoxythiobenzamide | 18.7 g | COC=1C=C(C(=S)N)C=CC1OC | C9H11NO2S
